US07229999B2
6-Benzyloxy-5-(4-chloro-phenyl)-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, benzylalcohol, (4-chloro-phenyl)-boronic acid and cis-2-aminomethyl-1-cyclohexanol hydrochloride as starting materials to yield racemic 6-benzyloxy-5-(4-chloro-phenyl)-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-nicotinamide. MS (ISP) 451.3 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | benzylalcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | cis-2-aminomethyl-1-cyclohexanol hydrochloride | Cl.NC[C@@H]1[C@@H](CCCC1)O
product | racemic 6-benzyloxy-5-(4-chloro-phenyl)-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-nicotinamide | C(C1=CC=CC=C1)OC1=NC=C(C(=O)NCC2C(CCCC2)O)C=C1C1=CC=C(C=C1)Cl | C26H27ClN2O3
